US07507734B2
(b) 1-(6-Chloro-3-methoxy-pyridazin-4-yl)-propan-1-one
12.25 g 1-(6-Chloro-3-methoxy-pyridazin-4-yl)-propan-1-ol is dissolved in 410 ml tetrahydrofuran and 105 g of manganese dioxide is added. The reaction is stirred for 24 h at RT. Solids are removed by filtration, and the solution is treated with a further 105 g of manganese dioxide for 16 h at RT. Solids are removed by filtration, and the solvent is removed under reduced pressure. The product is purified by silica gel chromatography, eluting with a gradient of ethyl acetate in heptane. Yield 3.25 g. LC-MS (ES+) 201 (M+H)+.

reactant | 1-(6-Chloro-3-methoxy-pyridazin-4-yl)-propan-1-ol | 12.25 g | ClC1=CC(=C(N=N1)OC)C(CC)O | C8H11ClN2O2
solvent | tetrahydrofuran | 410 ml | O1CCCC1 | C4H8O
catalyst | manganese dioxide | 105 g | [O-2].[O-2].[Mn+4]
product | 1-(6-Chloro-3-methoxy-pyridazin-4-yl)-propan-1-one | ClC1=CC(=C(N=N1)OC)C(CC)=O | C8H9ClN2O2
